US07214824B2
2-(4-tert-Butyl-2-chlorophenoxy)-N-{3-fluoro-4-[(methylsulfonyl)amino]benzyl}acetamide
A mixture of (4-tert-butyl-2-chlorophenoxy)acetic acid (121 mg, 0.5 mmol), 2-chloro-1,3-dimethylimidazolinium chloride (CDI) (90 mg, 0.55 mmol), triethylamine (0.30 ml), tetrahydrofuran (3.0 ml) and N-[4-(aminomethyl)-2-fluorophenyl]methanesulfonamide hydrochloride (127 mg, 0.5 mmol) was treated in the same procedure described in Example 2(b) to give 16 mg (7% yield) of the title compound as a white solid.

reactant | (4-tert-butyl-2-chlorophenoxy)acetic acid | 0.5 mmol, 121 mg | C(C)(C)(C)C1=CC(=C(OCC(=O)O)C=C1)Cl | C12H15ClO3
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.55 mmol, 90 mg | [Cl-].ClC1[NH+](CCN1C)C
reactant | triethylamine | 0.30 ml | C(C)N(CC)CC | C6H15N
reactant | N-[4-(aminomethyl)-2-fluorophenyl]methanesulfonamide hydrochloride | 0.5 mmol, 127 mg | Cl.NCC1=CC(=C(C=C1)NS(=O)(=O)C)F
solvent | tetrahydrofuran | 3.0 ml | O1CCCC1 | C4H8O
product | 2-(4-tert-Butyl-2-chlorophenoxy)-N-{3-fluoro-4-[(methylsulfonyl)amino]benzyl}acetamide | 16 mg, 7% yield | C(C)(C)(C)C1=CC(=C(OCC(=O)NCC2=CC(=C(C=C2)NS(=O)(=O)C)F)C=C1)Cl | C20H24ClFN2O4S
